US04439609
The product from Example 3, 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone was heated under reflux in 2 N hydrogen chloride in ethanol to give 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(2-hydroxy-4-pyridylmethyl)-4-pyrimidone tetrahydrochloride.

reactant | 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C22H28N6O2S
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(2-hydroxy-4-pyridylmethyl)-4-pyrimidone tetrahydrochloride | Cl.Cl.Cl.Cl.CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)O | InChI=1S/C21H26N6O2S.4ClH/c1-27(2)13-16-4-5-22-18(10-16)14-30-8-7-24-21-25-12-17(20(29)26-21)9-15-3-6-23-19(28)11-15;;;;/h3-6,10-12H,7-9,13-14H2,1-2H3,(H,23,28)(H2,24,25,26,29);4*1H
